US06531597B2
16.10 g (0.659 mol) of magnesium turnings was treated under argon in 450 ml of diethyl ether with 150 g (0.507 mol) of 3,5-bis-trifluoromethylbromobenzene at 33° C. for 1.5 h. Then a solution of 56.0 ml (0.763 mol) of acetone in 100 ml of diethylether was added at 16-22° C. under stirring. 110 ml of 25% Ammonium chloride solution was added at ca. 20° C. after 1.5 h to the reaction mixture and the suspension stirred for 1 h. The organic phase was dried over sodium sulfate, rotary evaporated and finally dried at 35° C. and 10 mbar, affording 136.96 g of 2-(3,5-bis-trifluoromethyl-phenyl)-propan-2-ol, which had a 99.2% purity according to GC analysis. Light yellow crystals, m.p. 59-60° C.

reactant | magnesium | 0.659 mol, 16.10 g | [Mg] | Mg
reactant | 3,5-bis-trifluoromethylbromobenzene | 0.507 mol, 150 g | FC(C=1C=C(C=C(C1)C(F)(F)F)Br)(F)F | C8H3BrF6
reactant | acetone | 0.763 mol, 56.0 ml | CC(=O)C | C3H6O
reactant | Ammonium chloride | 110 ml | [Cl-].[NH4+]
solvent | diethyl ether | 450 ml | C(C)OCC | C4H10O
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
product | 2-(3,5-bis-trifluoromethyl-phenyl)-propan-2-ol | 136.96 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C)(C)O)(F)F | C11H10F6O
